US07601743B2
Preparation of 2-(3-Chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [2-(bicyclopropyl-1-ylcarbamoyl)-4-cyano-6-methyl-phenyl]-amide (A.1.1)
To a solution of 3.29 g (5.23 mmol) 2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [2-(bicyclopropyl-1 -ylcarbamoyl)-4-iodo-6-methyl-phenyl]-amide in 50 ml tetrahydrofuran is added 1.19 g (6.25 mmol) Cul, 0.30 g tetrakis(triphenylphosphine) palladium and 2.78 g (31.0 mmol) CuCN. The mixture is heated 1 h at 80° C. and turns dark green. After cooling down, the mixture is filtered on Hyflo and evaporated. The residue is dissolved in 15 ml DMF and poured into 100 ml water containing 5 g NaHCO3. After 30 min stirring, the crystals are filtered, washed with water and a mixture of hexane/acetone (1:3) to afford 2.8 g of the title compound.

reactant | 2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [2-(bicyclopropyl-1 -ylcarbamoyl)-4-iodo-6-methyl-phenyl]-amide | 5.23 mmol, 3.29 g | C1(CC1)(C1CC1)NC(=O)C1=C(C(=CC(=C1)I)C)NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl | C24H20ClF3IN5O2
reactant | CuCN | 31.0 mmol, 2.78 g | C(#N)[Cu]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium | 0.30 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(3-Chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [2-(bicyclopropyl-1-ylcarbamoyl)-4-cyano-6-methyl-phenyl]-amide | 2.8 g | C1(CC1)(C1CC1)NC(=O)C1=C(C(=CC(=C1)C#N)C)NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl | C25H20ClF3N6O2
